US09238647B2
Step A: tert-butyl 2,6-dichloroisonicotinate
To a solution of 2,6-dichloroisonicotinic acid (10.0 g, 52.1 mmol) in THF (213 mL) at 0° C. was added dimethylaminopyridine (3.18 g, 26.0 mmol). A solution of di-tert-butyl dicarbonate (13.64 g. 62.5 mmol) in THF (20 mL) was added and the mixture was allowed to warm to ambient temperature. After 18 h, the solvent was removed and HCl (0.1 N aqueous solution) was added and the mixture was extracted with ethyl acetate (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated: LC-MS [M+1-16]=233.0.

reactant | 2,6-dichloroisonicotinic acid | 52.1 mmol, 10.0 g | ClC=1C=C(C(=O)O)C=C(N1)Cl | C6H3Cl2NO2
reactant | dimethylaminopyridine | 26.0 mmol, 3.18 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 62.5 mmol, 13.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 213 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 2,6-dichloroisonicotinate | ClC=1C=C(C(=O)OC(C)(C)C)C=C(N1)Cl | C10H11Cl2NO2
